US06329370B1
4-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid (Compound 69)
4-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid methyl ester (1.2 g, 3.5 mmoles), prepared as described in example 115, was dissolved in warm CH3OH (30 ml) and added with 10% NaOH (2.8 ml, 7 mmoles), then refluxed. After 30 minutes the mixture was cooled, dried, taken up in water and extracted with CH2Cl2. The aqueous phase was discoloured with charcoal and acidified with acetic acid. The precipitate was filtered, washed with water and dried to give 0.95 g of the title compound (yield: 82.4%). m.p.: 218-220° C.

reactant | 4-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid methyl ester | 3.5 mmoles, 1.2 g | COC(CCCC1=NN=C(C2=CC(=CC=C12)OC)C=1SC=CN1)=O | C17H17N3O3S
reactant | NaOH | 7 mmoles, 2.8 ml | [OH-].[Na+]
solvent | CH3OH | 30 ml | CO | CH4O
product | 4-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid | 0.95 g, yield: 82.4% | COC=1C=C2C(=NN=C(C2=CC1)CCCC(=O)O)C=1SC=CN1 | C16H15N3O3S
